** Name: SimpleTwoStageOpAmp_SimpleOpAmp5_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp5_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=17e-6
mDiodeTransistorPmos2 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=7e-6
mNormalTransistorNmos3 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=427e-6
mNormalTransistorNmos4 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 nmos4 L=5e-6 W=365e-6
mNormalTransistorNmos5 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=73e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerSourceLoad1 sourceNmos sourceNmos nmos4 L=1e-6 W=73e-6
mNormalTransistorNmos7 FirstStageYinnerSourceLoad1 inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 nmos4 L=5e-6 W=365e-6
mNormalTransistorPmos8 inputVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=3e-6 W=18e-6
mNormalTransistorPmos9 out ibias sourcePmos sourcePmos pmos4 L=3e-6 W=567e-6
mNormalTransistorPmos10 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=481e-6
mNormalTransistorPmos11 FirstStageYinnerSourceLoad1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=6e-6 W=481e-6
mNormalTransistorPmos12 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=191e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp5_1

** Expected Performance Values: 
** Gain: 95 dB
** Power consumption: 5.69001 mW
** Area: 12429 (mu_m)^2
** Transit frequency: 46.8341 MHz
** Transit frequency with error factor: 46.7592 MHz
** Slew rate: 62.5702 V/mu_s
** Phase margin: 60.1606°
** CMRR: 100 dB
** negPSRR: 102 dB
** posPSRR: 227 dB
** VoutMax: 4.51001 V
** VoutMin: 0.150001 V
** VcmMax: 3.63001 V
** VcmMin: -0.409999 V


** Expected Currents: 
** NormalTransistorPmos: -26.1649 muA
** NormalTransistorNmos: 139.092 muA
** NormalTransistorNmos: 139.093 muA
** NormalTransistorNmos: 139.094 muA
** NormalTransistorNmos: 139.093 muA
** NormalTransistorPmos: -278.182 muA
** NormalTransistorPmos: -139.091 muA
** NormalTransistorPmos: -139.091 muA
** NormalTransistorNmos: 813.581 muA
** NormalTransistorPmos: -813.58 muA
** DiodeTransistorNmos: 26.1641 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.94401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.705001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad1: 0.555001  V
** innerTransistorStack1Load1: 0.150001  V
** innerTransistorStack2Load1: 0.150001  V
** sourceTransconductance: 3.375  V


.END