** Name: SimpleTwoStageOpAmp_SimpleOpAmp72_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp72_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=7e-6 W=28e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=99e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=396e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=17e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=484e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=79e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=484e-6
mNormalTransistorNmos9 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=99e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=141e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=141e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=7e-6 W=396e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=28e-6
mNormalTransistorPmos14 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=532e-6
mNormalTransistorPmos15 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=102e-6
mNormalTransistorPmos16 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=102e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=97e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=97e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp72_1

** Expected Performance Values: 
** Gain: 97 dB
** Power consumption: 7.32901 mW
** Area: 13976 (mu_m)^2
** Transit frequency: 37.1841 MHz
** Transit frequency with error factor: 37.1501 MHz
** Slew rate: 42.8689 V/mu_s
** Phase margin: 60.1606°
** CMRR: 106 dB
** VoutMax: 4.69001 V
** VoutMin: 0.150001 V
** VcmMax: 5.09001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorNmos: 172.607 muA
** NormalTransistorNmos: 27.9321 muA
** NormalTransistorPmos: -97.3959 muA
** NormalTransistorPmos: -166.717 muA
** NormalTransistorPmos: -97.3959 muA
** NormalTransistorPmos: -166.717 muA
** DiodeTransistorNmos: 97.3951 muA
** NormalTransistorNmos: 97.3951 muA
** NormalTransistorNmos: 138.643 muA
** DiodeTransistorNmos: 138.644 muA
** NormalTransistorNmos: 69.3211 muA
** NormalTransistorNmos: 69.3211 muA
** NormalTransistorNmos: 921.84 muA
** NormalTransistorPmos: -921.839 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -172.606 muA
** DiodeTransistorPmos: -27.9329 muA


** Expected Voltages: 
** ibias: 1.15101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outSourceVoltageBiasXXnXX1: 0.576001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.125  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.557001  V
** sourceGCC1: 4.48001  V
** sourceGCC2: 4.48001  V
** sourceTransconductance: 1.87901  V
** inner: 0.574001  V


.END