** Name: SimpleTwoStageOpAmp_SimpleOpAmp72_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp72_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=17e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=258e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=6e-6 W=257e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=560e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=275e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=6e-6 W=257e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=84e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=84e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=258e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=17e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=507e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=292e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=292e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mNormalTransistorPmos18 SecondStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=139e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp72_3

** Expected Performance Values: 
** Gain: 101 dB
** Power consumption: 9.81001 mW
** Area: 9909 (mu_m)^2
** Transit frequency: 39.1801 MHz
** Transit frequency with error factor: 39.1469 MHz
** Slew rate: 50.5158 V/mu_s
** Phase margin: 60.1606°
** CMRR: 104 dB
** VoutMax: 3.29001 V
** VoutMin: 0.170001 V
** VcmMax: 4.66001 V
** VcmMin: 1.41001 V


** Expected Currents: 
** NormalTransistorNmos: 162.454 muA
** NormalTransistorPmos: -118.106 muA
** NormalTransistorPmos: -192.913 muA
** NormalTransistorPmos: -118.106 muA
** NormalTransistorPmos: -192.913 muA
** DiodeTransistorNmos: 118.107 muA
** NormalTransistorNmos: 118.107 muA
** NormalTransistorNmos: 149.618 muA
** DiodeTransistorNmos: 149.619 muA
** NormalTransistorNmos: 74.8081 muA
** NormalTransistorNmos: 74.8081 muA
** NormalTransistorNmos: 1403.74 muA
** NormalTransistorPmos: -1403.73 muA
** NormalTransistorPmos: -1403.73 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -162.453 muA
** DiodeTransistorPmos: -162.453 muA


** Expected Voltages: 
** ibias: 1.18101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.577001  V
** outSourceVoltageBiasXXnXX1: 0.591001  V
** outSourceVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.585001  V
** sourceGCC1: 3.08601  V
** sourceGCC2: 3.08601  V
** sourceTransconductance: 1.86501  V
** innerStageBias: 3.32801  V
** inner: 0.589001  V


.END