** Name: SimpleTwoStageOpAmp_SimpleOpAmp76_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp76_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=10e-6 W=23e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=327e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=5e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=205e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=3e-6 W=5e-6
mDiodeTransistorPmos6 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=562e-6
mDiodeTransistorPmos8 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=5e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=39e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=529e-6
mNormalTransistorNmos11 outFirstStage outVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=4e-6 W=53e-6
mNormalTransistorNmos12 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=54e-6
mNormalTransistorNmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=4e-6 W=205e-6
mNormalTransistorNmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=43e-6
mNormalTransistorNmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=43e-6
mNormalTransistorNmos16 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=10e-6 W=327e-6
mNormalTransistorNmos17 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=23e-6
mNormalTransistorPmos18 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=562e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=3e-6 W=31e-6
mNormalTransistorPmos20 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=13e-6
mNormalTransistorPmos21 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=3e-6 W=31e-6
mNormalTransistorPmos22 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=50e-6
mNormalTransistorPmos23 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=50e-6
mNormalTransistorPmos24 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp76_5

** Expected Performance Values: 
** Gain: 123 dB
** Power consumption: 14.9991 mW
** Area: 13412 (mu_m)^2
** Transit frequency: 34.0021 MHz
** Transit frequency with error factor: 34.0013 MHz
** Slew rate: 43.6147 V/mu_s
** Phase margin: 60.1606°
** CMRR: 130 dB
** VoutMax: 3 V
** VoutMin: 0.240001 V
** VcmMax: 4.66001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 23.1171 muA
** NormalTransistorNmos: 16.9201 muA
** NormalTransistorPmos: -43.9979 muA
** NormalTransistorPmos: -97.9849 muA
** NormalTransistorPmos: -167.975 muA
** NormalTransistorPmos: -97.9839 muA
** NormalTransistorPmos: -167.974 muA
** DiodeTransistorNmos: 97.9841 muA
** NormalTransistorNmos: 97.9831 muA
** NormalTransistorNmos: 97.9841 muA
** NormalTransistorNmos: 139.982 muA
** DiodeTransistorNmos: 139.983 muA
** NormalTransistorNmos: 69.9901 muA
** NormalTransistorNmos: 69.9901 muA
** NormalTransistorNmos: 2569.92 muA
** NormalTransistorPmos: -2569.91 muA
** DiodeTransistorPmos: -2569.91 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorNmos: 43.9971 muA
** DiodeTransistorPmos: -23.1159 muA
** NormalTransistorPmos: -23.1149 muA
** DiodeTransistorPmos: -16.9209 muA
** DiodeTransistorPmos: -16.9219 muA


** Expected Voltages: 
** ibias: 1.26001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.645001  V
** outInputVoltageBiasXXpXX1: 2.43601  V
** outSourceVoltageBiasXXnXX1: 0.631001  V
** outSourceVoltageBiasXXpXX1: 3.71801  V
** outSourceVoltageBiasXXpXX2: 3.68601  V
** outVoltageBiasXXnXX2: 1.05001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 3.66101  V
** sourceGCC2: 3.66101  V
** sourceTransconductance: 1.85501  V
** inner: 0.628001  V
** inner: 3.71601  V


.END