** Name: SimpleTwoStageOpAmp_SimpleOpAmp8_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp8_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=15e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=31e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=522e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=21e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=53e-6
mNormalTransistorNmos6 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=522e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=13e-6
mNormalTransistorNmos9 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=25e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=181e-6
mNormalTransistorNmos11 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=31e-6
mNormalTransistorPmos12 outFirstStage FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=53e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=265e-6
mNormalTransistorPmos14 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=8e-6 W=391e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp8_9

** Expected Performance Values: 
** Gain: 83 dB
** Power consumption: 14.9261 mW
** Area: 6557 (mu_m)^2
** Transit frequency: 34.4171 MHz
** Transit frequency with error factor: 34.3358 MHz
** Slew rate: 51.2401 V/mu_s
** Phase margin: 60.1606°
** CMRR: 85 dB
** negPSRR: 135 dB
** posPSRR: 83 dB
** VoutMax: 4.25 V
** VoutMin: 0.900001 V
** VcmMax: 4.09001 V
** VcmMin: 0.820001 V


** Expected Currents: 
** NormalTransistorNmos: 8.59701 muA
** NormalTransistorPmos: -157.231 muA
** DiodeTransistorPmos: -59.4079 muA
** NormalTransistorPmos: -59.4079 muA
** NormalTransistorNmos: 118.816 muA
** NormalTransistorNmos: 59.4071 muA
** NormalTransistorNmos: 59.4071 muA
** NormalTransistorNmos: 2690.66 muA
** DiodeTransistorNmos: 2690.66 muA
** NormalTransistorPmos: -2690.65 muA
** DiodeTransistorNmos: 157.232 muA
** NormalTransistorNmos: 157.232 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -8.59799 muA


** Expected Voltages: 
** ibias: 0.582001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.30201  V
** outSourceVoltageBiasXXnXX1: 0.651001  V
** outVoltageBiasXXpXX0: 4.01001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 3.68601  V
** sourceTransconductance: 1.85701  V
** inner: 0.651001  V


.END