** Name: SimpleTwoStageOpAmp_SimpleOpAmp10_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp10_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=7e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=8e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=95e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=98e-6
mNormalTransistorNmos6 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=86e-6
mNormalTransistorNmos7 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=8e-6 W=351e-6
mNormalTransistorNmos8 outFirstStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=109e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=87e-6
mNormalTransistorNmos10 FirstStageYout1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=109e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=59e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=600e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=36e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=499e-6
mNormalTransistorPmos15 outFirstStage inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=103e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=98e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 4.60001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp10_8

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 6.21701 mW
** Area: 9958 (mu_m)^2
** Transit frequency: 18.9151 MHz
** Transit frequency with error factor: 18.9043 MHz
** Slew rate: 17.8269 V/mu_s
** Phase margin: 60.1606°
** CMRR: 100 dB
** negPSRR: 109 dB
** posPSRR: 102 dB
** VoutMax: 4.69001 V
** VoutMin: 0.740001 V
** VcmMax: 4.23001 V
** VcmMin: 0.810001 V


** Expected Currents: 
** NormalTransistorNmos: 122.508 muA
** NormalTransistorNmos: 121.84 muA
** NormalTransistorPmos: -45.6489 muA
** DiodeTransistorPmos: -41.5219 muA
** NormalTransistorPmos: -41.5219 muA
** NormalTransistorPmos: -41.5219 muA
** NormalTransistorNmos: 83.0411 muA
** NormalTransistorNmos: 41.5211 muA
** NormalTransistorNmos: 41.5211 muA
** NormalTransistorNmos: 860.366 muA
** NormalTransistorNmos: 860.365 muA
** NormalTransistorPmos: -860.365 muA
** DiodeTransistorNmos: 45.6481 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -122.507 muA
** DiodeTransistorPmos: -121.839 muA


** Expected Voltages: 
** ibias: 0.664001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.14301  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 4.12401  V
** outVoltageBiasXXpXX0: 4.05801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load1: 4.40001  V
** out1: 3.97401  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.259001  V


.END